US06245790B1
3-{[2-(4,5-Diphenyloxazol-2-yl)-2-cyclopenten-1-yl]-methyl}benzamide (75 mg) was hydrogenated over 5% Pd/C (3 mg) in methanol (20 ml) at room temperature at 3 atm for 7 hours. The mixture was filtered and the filtrate was evaporated in vacuo. The residue was triturated with a mixture of ether and n-hexane to afford 3-{[2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}benzamide (54 mg).

reactant | 3-{[2-(4,5-Diphenyloxazol-2-yl)-2-cyclopenten-1-yl]-methyl}benzamide | 75 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(C(=O)N)C=CC1 | C28H24N2O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 3 mg | [Pd] | Pd
product | 3-{[2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}benzamide | 54 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1C(CCC1)CC=1C=C(C(=O)N)C=CC1 | C28H26N2O2
